US07056932B2
To a stirred solution of the crude (RS)-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-trimethylsilanyloxy-acetonitrile (2.47 g) in EtOH (20 ml) was added concentrated sulfuric acid (1.73 ml). The mixture was heated to reflux and stirring was continued for 17 h. After cooling to r.t., the mixture (light red clear solution) was poured into 50 ml of water. The solution was brought to pH˜8 by the addition of saturated Na2CO3. It was extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated. The product was isolated by chromatography (silica gel, gradient cyclohexane=>EtOAc) to give (RS)-hydroxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester (1.17 g) as off-white solid. MS 262.2 ([M+H]+)

reactant | (RS)-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-trimethylsilanyloxy-acetonitrile | 2.47 g | CC1=NC(=NN1C1=CC=CC=C1)C(C#N)O[Si](C)(C)C | C14H18N4OSi
reactant | sulfuric acid | 1.73 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 ml | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 20 ml | CCO | C2H6O
product | (RS)-hydroxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester | 1.17 g | C(C)OC(C(C1=NN(C(=N1)C)C1=CC=CC=C1)O)=O | C13H15N3O3
